US07371743B2
(f) methyl 4-[3-(2-chloro-ethoxy)-propionyl-amino]-3-methyl-benzoate
1.70 g (10.3 mmol) methyl 4-amino-3-methyl-benzoate in 10 ml THF are combined with 2.84 ml (20.6 mmol) triethylamine and stirred for 20 minutes at ambient temperature. Then a solution of 1.78 g (10.4 mmol) 3-(2-chloro-ethoxy)-propionic acid-chloride in 25 ml THF is added dropwise and the mixture is stirred for a further 2.5 hours at ambient temperature. Then water is added and the mixture is extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated down completely i. vac. The residue is purified by chromatography on silica gel (eluting gradient: petroleum ether/ethyl acetate=7:3->6:4).

reactant | methyl 4-amino-3-methyl-benzoate | 10.3 mmol, 1.70 g | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | triethylamine | 20.6 mmol, 2.84 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloro-ethoxy)-propionic acid-chloride | 10.4 mmol, 1.78 g | ClCCOCCC(=O)Cl | C5H8Cl2O2
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | methyl 4-[3-(2-chloro-ethoxy)-propionyl-amino]-3-methyl-benzoate | ClCCOCCC(=O)NC1=C(C=C(C(=O)OC)C=C1)C | C14H18ClNO4
